US03983160
3-Methoxy-4-hydroxyphenylacetonitrile ##SPC6##
185g of 3-methoxy-4-hydroxybenzyl alcohol are dissolved in 1,250 ml of DMSO and 35g of anhydrous hydrocyanic acid are passed in over the course of 1 hour at 125°C. The mixture is then stirred for a further 2 hours, and worked up as indicated above. The yield was 160.5g (82% of theory).

reactant | 3-methoxy-4-hydroxybenzyl alcohol | COC=1C=C(CO)C=CC1O | C8H10O3
reactant | hydrocyanic acid | C#N | CHN
solvent | DMSO | 1,250 ml | CS(=O)C | C2H6OS
product | 3-Methoxy-4-hydroxyphenylacetonitrile | COC=1C=C(C=CC1O)CC#N | C9H9NO2
